US05475027
To 2.68 g of 2(S)-methyl-3-(methylsulfonyl)propionic acid t-butyl ester was added 20 mL of 4N hydrochlorid acid/dioxane and the mixture stirred at room temperature for 19 hours. The solvent was removed under reduced pressure to afford 2.18 g of crude product, which was recrystallized from ethyl acetate/hexane to yield 1.44 g of 2(S)-methyl-3-(methylsulfonyl)propionic acid as white crystals, mp 81°-83° C.

reactant | 2(S)-methyl-3-(methylsulfonyl)propionic acid t-butyl ester | 2.68 g | C(C)(C)(C)OC([C@@H](CS(=O)(=O)C)C)=O | C9H18O4S
reactant | hydrochlorid | 4N, 20 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2(S)-methyl-3-(methylsulfonyl)propionic acid | 1.44 g | C[C@@H](C(=O)O)CS(=O)(=O)C | C5H10O4S
